US05852011
In a reactor, 144 mg (0.49 mmol) of 3-methoxy-4-[N,N-bis(2-chloroethyl)amino]nitrobenzene were dissolved in a mixed solvent of 10 ml of methanol and 2 me of tetrahydrofuran, followed by the addition of 150 mg of 10% Pd/C under a nitrogen gas atmosphere. The reactor was purged with hydrogen gas, followed by stirring at room temperature for one hour. After completion of the reaction, the reactor was purged with nitrogen gas, followed by stirring for 30 minutes. The 10% Pd/C was then filtered off. To the thus-obtained methanol solution, 200 μl of a solution of 4N hydrochloric acid/dioxane were added, whereby 3-methoxy-4-[N,N-bis(2-chloroethyl)amino]aniline hydrochloride were obtained. The hydrochloride was provided for use in the next reaction. In 5 ml of DMF, 200 mg (0.7 mmol) of 1H-2-(1-methyl-4-nitropyrrol-2-yl)benzimidazole-5-carboxylic acid and the 3-methoxy-4-[N,N-bis(2-chloroethyl)amino]aniline hydrochloride were dissolved, followed by cooling to 0° C. To the resulting solution, 102 μl (0.74 mmol) of triethylamine and then 112 μl (0.74 mmol) of DECP were added under a nitrogen gas atmosphere, followed by stirring for 20 minutes as was. The reaction mixture was stirred at room temperature for further one hour and was then allowed to stand overnight. The solvent was distilled out under reduced pressure. The residue so obtained was purified by chromatography on a silica gel column (ethyl acetate/n-hexane=1/1), whereby 80 mg of yellow powder were obtained (yield: 31%).

reactant | 3-methoxy-4-[N,N-bis(2-chloroethyl)amino]nitrobenzene | 0.49 mmol, 144 mg | COC=1C=C(C=CC1N(CCCl)CCCl)[N+](=O)[O-] | C11H14Cl2N2O3
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 3-methoxy-4-[N,N-bis(2-chloroethyl)amino]aniline hydrochloride | Cl.COC=1C=C(N)C=CC1N(CCCl)CCCl | InChI=1S/C11H16Cl2N2O.ClH/c1-16-11-8-9(14)2-3-10(11)15(6-4-12)7-5-13;/h2-3,8H,4-7,14H2,1H3;1H
